US08071588B2
1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methylidene}-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate (94.68 g, 269 mmol) in nitrogen purged DMF (700 mL) was added potassium acetate (52.8 g, 538 mmol) and bis(pinacolato)diboron (82 g, 323 mmol). The resulting reaction mixture was alternatived flushed with nitrogen and then put under vacuum five times. PdCl2(dppf)-CH2Cl2 adduct (10.97 g, 13.44 mmol) was then added and the reaction mixture heated to 100° C. for 2 h. The reaction mixture was then cooled to room temperature and was filtered through celite, washing the pad well with DMF. The filtrate was then concentrated in vacuo and the resulting residue dissolved in water and ethyl acetate. The organic layer was separated, filtered through celite, then washed with brine, re-filtered through celite, dried over magnesium sulfate, filtered then concentrated in vacuo. The resulting residue was dissolved in 100 mL DCM, loaded onto a 1500 g ISCO™ silica column and purified on a 0-25% EtOAc in cyclohexane gradient, but the compound eluted at the beginning of the run due to use of DCM. The appropriate fractions were combined and concentrated to yield a viscous oil which was then dissolved in cyclohexane (100 mL) and loaded onto a 1500 g ISCO™ silica column and purified on a 0-25% EtOAc in cyclohexane gradient. This gave a pale green solid, 92.48 g (86%). HPLC 3.12 min (ret time) (82.71% boronate) and 2.33 min (ret time) (4.74% boronic acid-boronate hydrolyses partially on HPLC column); LC-MS m/z 343.95 (M+H)+, 1.59 min (ret time) [product minus tBu group].

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate | 269 mmol, 94.68 g | BrC=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C | C17H22BrNO2
reactant | potassium acetate | 538 mmol, 52.8 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 323 mmol, 82 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | boronate | B([O-])[O-]
reactant | boronic acid boronate | B(O)O.B([O-])[O-]
solvent | cyclohexane | 100 mL | C1CCCCC1 | C6H12
catalyst | PdCl2(dppf) CH2Cl2 | 13.44 mmol, 10.97 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methylidene}-1-piperidinecarboxylate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C)C | C23H34BNO4
